US07396844B1
Synthesis of N-[2-(5-cyano-2-bromomethylphenoxy)ethyl]-4-cyanobenzamide
12.0 g (39.3 mmol) of N-[2-(5-cyano-2-methylphenoxy)ethyl]-4-cyanobenzamide was dissolved in 200 ml of carbon tetrachloride. 7.00 g (39.3 mmol) of N-bromosuccinimide and 700 mg (4.26 mmol) of azoisobutyronitrile were added to the solution. After stirring at 100° C. for 3 days, 16.8 g (94.4 mmol) of N-bromosuccinimide and 2.1 g (12.8 mmol) of azoisobutyronitrile were added to the resultant mixture, and they were stirred for additional 2 days. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | N-[2-(5-cyano-2-methylphenoxy)ethyl]-4-cyanobenzamide | 39.3 mmol, 12.0 g | C(#N)C=1C=CC(=C(OCCNC(C2=CC=C(C=C2)C#N)=O)C1)C | C18H15N3O2
reactant | N-bromosuccinimide | 39.3 mmol, 7.00 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 94.4 mmol, 16.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[2-(5-cyano-2-bromomethylphenoxy)ethyl]-4-cyanobenzamide | C(#N)C=1C=CC(=C(OCCNC(C2=CC=C(C=C2)C#N)=O)C1)CBr | C18H14BrN3O2
